US09447033B2
3-[(4-Chloro-benzyl)-(2-methyl-2H pyrazole-3-sulfonyl)-amino]-N-isopropyl-benzamide (Method F)
3-(4-Chloro-benzylamino)-N-isopropyl-benzamide (30 mg, 0.1 mmol), diisopropylethylamine (35 μL, 0.2 mmol) and 1-methyl-1H-pyrazole-5-sulfonyl chloride (36 mg, 0.2 mmol) were stirred in dry dichloromethane (2 ml) at room temperature for 72 hrs. The reaction was diluted with dichloromethane ml) and water (5 ml) with stirring. The organics were collected, dried (PTFE frit) and concentrated in vacuo. The residue was purified by preparative TLC (10% ethyl acetate/dichloromethane) to yield the product as an off-white solid (9 mg). HPLC retention time 8.04 min. Mass spectrum (ES+) m/z 447 (M+H).

reactant | 3-(4-Chloro-benzylamino)-N-isopropyl-benzamide | 0.1 mmol, 30 mg | ClC1=CC=C(CNC=2C=C(C(=O)NC(C)C)C=CC2)C=C1 | C17H19ClN2O
reactant | diisopropylethylamine | 0.2 mmol, 35 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methyl-1H-pyrazole-5-sulfonyl chloride | 0.2 mmol, 36 mg | CN1N=CC=C1S(=O)(=O)Cl | C4H5ClN2O2S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | water | 5 ml | O | H2O
product | 3-[(4-Chloro-benzyl)-(2-methyl-2H pyrazole-3-sulfonyl)-amino]-N-isopropyl-benzamide | 9 mg | ClC1=CC=C(CN(C=2C=C(C(=O)NC(C)C)C=CC2)S(=O)(=O)C=2N(N=CC2)C)C=C1 | C21H23ClN4O3S
